US04990508
In 330 ml of N,N-dimethylformamide was suspended 3.7 g of 60% sodium hydride. To the resulting suspension was added 20.2 g of trimethylsulfoxonium iodide with ice-cooling. The resulting mixture was stirred at room temperature for 1 hour. Thereto was added 33.0 g of methyl 4-(1-diphenylmethoxycarbonylvinyl)-2,3,5,6-tetrafluorobenzoate. The resulting mixture was stirred at the same temperature for 2 hours. To the reaction mixture were added 300 ml of ethyl acetate and 900 ml of water in this order. The resulting mixture was adjusted to pH 1 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: toluene) to obtain 22.5 g (yield: 66.1%) of methyl 4-(1-diphenylmethoxycarbonylcyclopropyl)-2,3,5,6-tetrafluorobenzoate.

reactant | sodium hydride | 3.7 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 20.2 g | [I-].C[S+](=O)(C)C
reactant | methyl 4-(1-diphenylmethoxycarbonylvinyl)-2,3,5,6-tetrafluorobenzoate | 33.0 g | C1(=CC=CC=C1)C(OC(=O)C(=C)C1=C(C(=C(C(=O)OC)C(=C1F)F)F)F)C1=CC=CC=C1 | C24H16F4O4
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 330 ml | CN(C=O)C | C3H7NO
solvent | water | 900 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-(1-diphenylmethoxycarbonylcyclopropyl)-2,3,5,6-tetrafluorobenzoate | 22.5 g, yield: 66.1% | C1(=CC=CC=C1)C(OC(=O)C1(CC1)C1=C(C(=C(C(=O)OC)C(=C1F)F)F)F)C1=CC=CC=C1 | C25H18F4O4
